US04515912
The synthesis of this chemical compound is depicted in Table I. The synthesis consists of the reaction of cyclopentene with acrolein to produce 5-norbornene-2-al. Reaction of 5-norbornene-2-al with formaldehyde results in the formation of 5-norbornene-2,2-dimethanol. Mild oxidation of the latter compound with dibutylstannic oxide yields the 3,9-bis(5'-norbornene-2'yl)-1,5,7,11-tetraoxaspiro[5.5]undecane.

reactant | 5-norbornene-2-al | C12C(CC(C=C1)C2)C=O | C8H10O
reactant | formaldehyde | C=O | CH2O
product | 5-norbornene-2,2-dimethanol | C12C(CC(C=C1)C2)(CO)CO | C9H14O2
